US06528525B1
2-(4-t-Butylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-8 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-t-butylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (360 mg), which is the product of Example 116, was reacted with aqueous sodium hydroxide solution (1N, 2.00 ml) and the reaction mixture was treated to give the title compound (315 mg) as a white powder.

reactant | ethyl 2-(4-t-butylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 360 mg | C(C)(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C35H38N2O5
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | 2-(4-t-Butylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 315 mg | C(C)(C)(C)C1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C33H34N2O5
